US08461181B2
To a mixture of 0.60 g of 1-methyl-2-(3-methylthiopyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole and 9 ml of chloroform was added 1.40 g of 69% m-chloroperbenzoic acid under ice cool, then, the mixture was stirred for 2 hours at room temperature. Thereafter, a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium thiosulfate aqueous solution were poured, and the mixture was extracted three times with chloroform. The combined organic layers were dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.52 g of 2-(3-methanesulfonylpyridin-4-yl)-1-methyl-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 19).

reactant | 1-methyl-2-(3-methylthiopyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole | 0.60 g | CN1C(=NC2=C1C=CC(=C2)C(F)(F)F)C2=C(C=NC=C2)SC | C15H12F3N3S
reactant | m-chloroperbenzoic acid | 1.40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 9 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-methanesulfonylpyridin-4-yl)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 0.52 g | CS(=O)(=O)C=1C=NC=CC1C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C15H12F3N3O2S
